US05034417
Methanesulfonyl chloride (2.2 ml) was added dropwise to an ice-cooled solution of 4-amino-5-(2,4-difluorophenylthio)-2-methylbenzonitrile (3.9 g) and triethylamine (3.9 ml) in pyridine (40 ml). The mixture was stirred overnight at room temperature and concentrated to dryness. To the residue were added pyridine (10 ml) and 5% aqueous solution of sodium hydroxide (50 ml). The resulting mixture was stirred for 2 hours and washed with toluene (50 ml). The aqueous layer was acidified with hydrochloric acid, and the precipitates obtained were recrystallized from a mixture of ethanol and ethyl acetate to give a pale brown powder of 4'-cyano-2'-(2,4-difluorophenylthio)-5'-methylmethanesulfonanilide (2.6 g).

reactant | Methanesulfonyl chloride | 2.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-amino-5-(2,4-difluorophenylthio)-2-methylbenzonitrile | 3.9 g | NC1=CC(=C(C#N)C=C1SC1=C(C=C(C=C1)F)F)C | C14H10F2N2S
reactant | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4'-cyano-2'-(2,4-difluorophenylthio)-5'-methylmethanesulfonanilide | 2.6 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1C)SC1=C(C=C(C=C1)F)F | C15H12F2N2O2S2
